US05639748
A solution of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-carboxaldehyde (3.07 g, 13.8 mmol) in methanol (35 ml) was cooled to 5° C. and treated with sodium borohydride (3.07 g, 81 mmol). The mixture was stirred for 15 minutes at 5° C. and for 45 minutes at 25° C. The mixture was cooled and carefully treated with dilute hydrochloric acid. The mixture was diluted with brine, basified with 10% sodium hydroxide and extracted with ethyl acetate. The organic phase was dried, concentrated and the residue chromatographed on silica gel eluted with a gradient of methanol-methylene chloride (5:95-9:91) to give 1.45 g (47%) of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-methanol; mp 136.5°-140° C.

reactant | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-carboxaldehyde | 13.8 mmol, 3.07 g | ClC1=CC=C(C2=C1CCN(CC2)C)C=O | C12H14ClNO
reactant | sodium borohydride | 81 mmol, 3.07 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-methanol | 1.45 g, 47% | ClC1=CC=C(C2=C1CCN(CC2)C)CO | C12H16ClNO
